US07524840B2
A mixture of 0.5 g (0.00155 mole) of 5-(2-chlorophenyl)-1,3-dihydro-7,8-difluoro-2H-1,4-benzodiazepin-2-thione (IImm), 10 mL of ethanol and 0.62 g of 60% sodium hydride was heated at reflux for 24 hours. The mixture was cooled, diluted with ethyl acetate and washed successively with water and then brine. The ethyl acetate extract was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.52 g of 5-(2-chlorophenyl)-1,3-dihydro-8-ethoxy-7-fluoro-2H-1,4-benzodiazepin-2-thione (IIg) as a yellow solid. MH+/Z=349.

reactant | 5-(2-chlorophenyl)-1,3-dihydro-7,8-difluoro-2H-1,4-benzodiazepin-2-thione | 0.00155 mole, 0.5 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)F)F)=S | C15H9ClF2N2S
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium hydride | 0.62 g | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)-1,3-dihydro-8-ethoxy-7-fluoro-2H-1,4-benzodiazepin-2-thione | 0.52 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OCC)F)=S | C17H14ClFN2OS
